US07601844B2
Step 2. tert-Butyl 4-(4-chlorophenyl)-5,5-dimethyl-5,6-dihydropyridine-1(2H)-carboxylate
A solution of 4-(4-chlorophenyl)-3,3-dimethyl-1,2,3,6-tetrahydropyridine (3.46 g, 15.60 mmol) in THF (50 mL) was treated di-tert-butyl dicarbonate (3.99 mL, 17.17 mmol), causing a color change to amber, and the mixture was stirred overnight at room temperature. The solution was concentrated in-vacuo, and the residue was purified by flushing through silica gel, eluting with hexanes/ethyl acetate (10%-15% EtOAc), to yield the title compound (5.0 g, 15.54 mmol, 100% yield) as a colorless oil. MS (ESI+)=266, (M+H-t-Bu)+.

reactant | 4-(4-chlorophenyl)-3,3-dimethyl-1,2,3,6-tetrahydropyridine | 15.60 mmol, 3.46 g | ClC1=CC=C(C=C1)C=1C(CNCC1)(C)C | C13H16ClN
reactant | di-tert-butyl dicarbonate | 17.17 mmol, 3.99 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-chlorophenyl)-5,5-dimethyl-5,6-dihydropyridine-1(2H)-carboxylate | 15.54 mmol, 5.0 g, 100% yield | ClC1=CC=C(C=C1)C1=CCN(CC1(C)C)C(=O)OC(C)(C)C | C18H24ClNO2
